US03983154
Compound XL is prepared by reacting endo-bicycle[3.1.0]hex-2-ene-6-carboxylic acid methyl ester with diborane in a mixture of tetrahydrofuran and diethyl ether, a reaction generally known in the art, to give endo-bicyclo[3.100]63 hexan-3-ol-6-carboxylic acid methyl ester which is then reacted with dihydropyran in the presence of a catalytic amount of POCl3 to give the desired compound. This is then used as described in said Belgian patent to produce the endo form of bicyclo-ketone XVI.

reactant | hex-2-ene-6-carboxylic acid methyl ester | COC(=O)CCCC=CC | C8H14O2
reactant | diborane | B#B | B2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | hexan-3-ol-6-carboxylic acid methyl ester | COC(=O)CCCC(CC)O | C8H16O3
